US05286869
(E)-4-[4-(1-imidazolylmethyl)phenyl]-3-buten-2-yl methyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate:
332 mg (1 mM) of 1,4-dihydro-2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)pyridine-3-carboxylic acid together with 228 mg (1 mM) of (E)-4-{4-(1-imidazolylmethyl)phenyl)-3-buten-2-ol, 248 mg (1.2 mM) of dicyclohexylcarbodiimide and 134 mg (1.1 mM) of 4-N,N-dimethylaminopyridine were dissolved in 5 ml of toluene, while heating, and refluxed for six hours. The solution was cooled to room temperature, and the crystals produced were filtered off. The filtrate was washed with water and dried over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by chromatography on a silica gel column. Two kinds of diastereomers were eluted by silica gel column chromatography with a eluate consisting of a mixture of hexane, ethyl acetate and methanol in a ratio of 5:5:1. The first eluted moiety is referred to as "Compound a", and the later eluted moiety is referred to as "Compound b".

reactant | 1,4-dihydro-2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)pyridine-3-carboxylic acid | 1 mM, 332 mg | CC=1NC(=C(C(C1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C16H16N2O6
reactant | (E)-4-{4-(1-imidazolylmethyl)phenyl)-3-buten-2-ol | 1 mM, 228 mg | N1C(=NC=C1)CC1=CC=C(C=C1)/C=C/C(C)O | C14H16N2O
reactant | dicyclohexylcarbodiimide | 1.2 mM, 248 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-4-[4-(1-imidazolylmethyl)phenyl]-3-buten-2-yl methyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC(C)\C=C\C1=CC=C(C=C1)CC=1NC=CN1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C30H30N4O6
